US06207678B1
4(S)-(3,4-Dichlorophenyl)-5-(methanesulphonyloxy)pent-1-ene (8.25 g) (see Preparation 93) and imidazole (5.3 g) were dissolved in anhydrous acetonitrile (80 ml) and the mixture heated under reflux for 6 days. The solvent was removed under reduced pressure to give a residue which was partitioned between diethyl ether and aqueous saturated sodium hydrogen carbonate solution (pH of the aqueous phase was kept >7). The phases were separated and the aqueous phase extracted with diethyl ether. The combined organic extracts were then washed with water, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give a residue which was chromatographed on silica gel, eluting with a solvent gradient of 98:2 changing to 95:5, by volume, dichloromethane:methanol to give 4(S)-(3,4-dichlorophenyl)-5-(imidazol-1-yl)pent-1-ene (4.78 g) as an oil.

reactant | 4(S)-(3,4-Dichlorophenyl)-5-(methanesulphonyloxy)pent-1-ene | 8.25 g | ClC=1C=C(C=CC1Cl)[C@H](CC=C)COS(=O)(=O)C | C12H14Cl2O3S
reactant | imidazole | 5.3 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 4(S)-(3,4-dichlorophenyl)-5-(imidazol-1-yl)pent-1-ene | 4.78 g | ClC=1C=C(C=CC1Cl)[C@H](CC=C)CN1C=NC=C1 | C14H14Cl2N2
